.SUBCKT LT1001S8   3 2 7 4 6
X_LT1001S8 3 2 7 4 6 LT1001
** nested subcircuit: LT1001
.SUBCKT LT1001     3 2 7 4 6 
* INPUT
RC1 7 80 6.631E+03
RC2 7 90 6.631E+03
Q1 80 102 10 QM1 
Q2 90 103 11 QM2 
RB1 2 102 5.000E+02
RB2 3 103 5.000E+02
DDM1 102 104 DM2 
DDM3 104 103 DM2 
DDM2 103 105 DM2 
DDM4 105 102 DM2 
C1 80 90 8.660E-12
RE1 10 12 1.409E+03
RE2 11 12 1.409E+03
IEE 12 4 9.901E-06
RE 12 0 2.020E+07
CE 12 0 1.579E-12
* INTERMEDIATE 
GCM 0 8 12 0 7.558E-11
GA 8 0 80 90 1.508E-04
R2 8 0 1.000E+05
C2 1 8 3.000E-11
GB 1 0 8 0 1.538E+03
* OUTPUT 
RO1 1 6 2.575E+01
RO2 1 0 3.425E+01
RC 17 0 4.228E-06
GC 0 17 6 0 2.365E+05
D1 1 17 DM1 
D2 17 1 DM1 
D3 6 13 DM2 
D4 14 6 DM2 
VC 7 13 1.803E+00
VE 14 4 1.803E+00
IP 7 4 1.590E-03
DSUB 4 7 DM2 
* MODELS 
.MODEL QM1 NPN (IS=8.000E-16 BF=5.500E+03)
.MODEL QM2 NPN (IS=8.006E-16 BF=9.900E+03)
.MODEL DM1 D (IS=2.331E-08)
.MODEL DM2 D (IS=8.000E-16)
.ENDS LT1001
** end nested subcircuit: LT1001
.ENDS LT1001S8
